US05360820
2-(Phenylmethylene)-1-azabicyclo[2.2.1 ]heptan-3-one
A mixture of 1-azabicyclo [2.2.1] heptan-3-one (2.65 g ), benzaldehyde (3.64 ml) and sodium hydroxide (1.15 g) in ethanol (25 ml) was heated at reflux for 40 min. After cooling the solvent was removed in vacuo and the residue partitioned between dichloromethane (300 ml) and water (300 ml). The aqueous layer was further extracted with dichloromethane (2×300 ml). The organic extracts were combined, backwashed with brine (100 ml), dried and concentrated in vacuo to give an orange oil (5.84 g). The oil was purified by FCC, using gradient elution with petrol/ethyl acetate 6:1 to 3:1 to give the title compound as a yellow solid (3.80 g). m.p. 61°-63°.

reactant | 1-azabicyclo [2.2.1] heptan-3-one | 2.65 g | N12CC(C(CC1)C2)=O | C6H9NO
reactant | benzaldehyde | 3.64 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | 1.15 g | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(Phenylmethylene)-1-azabicyclo[2.2.1 ]heptan-3-one | 5.84 g | C1(=CC=CC=C1)C=C1N2CCC(C1=O)C2 | C13H13NO
